US09359549B2
Synthesis of 3-chlorobenzofuro[3,2-c]pyridine
2-chloro-5-(2-methoxyphenyl)pyridin-4-amine (7.5 g, 31.96 mmol) was dissolved in glacial acetic acid (200 mL) and concentrated sulfuric acid (1 mL). A solution of t-butylnitrite (11.39 mL, 95.87 mmol) in 10 mL of acetic acid was added drop wise and stirred for 30 minutes. The reaction mixture was concentrated under reduced pressure, dissolved in methylene chloride. The reaction mixture was dried over sodium sulfate, concentrated and the residue was purified by silica column using hexanes and ethyl acetate as eluent to give 5.0 g of title compound.

reactant | 2-chloro-5-(2-methoxyphenyl)pyridin-4-amine | 31.96 mmol, 7.5 g | ClC1=NC=C(C(=C1)N)C1=C(C=CC=C1)OC | C12H11ClN2O
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | t-butylnitrite | 95.87 mmol, 11.39 mL | C(C)(C)(C)ON=O | C4H9NO2
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 3-chlorobenzofuro[3,2-c]pyridine | 5.0 g | ClC1=CC2=C(C=N1)C1=C(O2)C=CC=C1 | C11H6ClNO
